US04234588
A mixture of 6-methoxypyridine-3-carboxaldehyde (2.34 g), monoethyl malonate (4.51 g), pyridine (12 ml) and piperidine (6 drops) was heated under reflux for 5 hours and was evaporated to an oil. This oil was partitioned between ether and dilute aqueous ammonia. The ether layer was washed with water and evaporated to an oil which crystallised on standing to give ethyl 3-(6-methoxy-3-pyridyl)acrylate (2.8 g, 79%) m.p. 49°-52°.

reactant | 6-methoxypyridine-3-carboxaldehyde | 2.34 g | COC1=CC=C(C=N1)C=O | C7H7NO2
reactant | monoethyl malonate | 4.51 g | C(CC(=O)[O-])(=O)OCC
catalyst | piperidine | 6 drops | N1CCCCC1 | C5H11N
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 3-(6-methoxy-3-pyridyl)acrylate | 2.8 g, 79% | COC1=CC=C(C=N1)C=CC(=O)OCC | C11H13NO3
